US04254127
A mixture of 10 parts of 1-acetyl-4-[2-(4-methoxyphenyl)-2-oxoethyl]piperidine and 50 parts of a hydrochloric acid solution 6 N is stirred and heated for 4 hours at 100° C. The reaction mixture is allowed to cool to room temperature. The precipitated product is filtered off and crystallized from 2-propanol, yielding 5.8 parts (59%) of 1-(4-methoxyphenyl)-2-(4-piperidinyl)ethanone hydrochloride; mp. 250.7° C.

reactant | 1-acetyl-4-[2-(4-methoxyphenyl)-2-oxoethyl]piperidine | C(C)(=O)N1CCC(CC1)CC(=O)C1=CC=C(C=C1)OC | C16H21NO3
reactant | hydrochloric acid | 6 N | Cl | ClH
product | 1-(4-methoxyphenyl)-2-(4-piperidinyl)ethanone hydrochloride | 59% | Cl.COC1=CC=C(C=C1)C(CC1CCNCC1)=O | InChI=1S/C14H19NO2.ClH/c1-17-13-4-2-12(3-5-13)14(16)10-11-6-8-15-9-7-11;/h2-5,11,15H,6-10H2,1H3;1H
